US08754180B2
Synthesis of Urethane Acrylate (A1)
A flask was charged with 4000 g (0.5 mol) of a polyalkylene glycol 1 [weight-average molecular weight (Mw): 8000] and 174 g (1 mol) of toluene diisocyanate. The flask was further charged with tin(II) octanoate at 200 ppm and zinc(II) octanoate at 200 ppm that served as catalysts, dibutylhydroxytoluene serving as an antioxidant at 3000 ppm, and methoquinone serving as a polymerization inhibitor at 300 ppm. In addition, normal-butyl acetate was added such that the solid content became 80%. The resultant solution was mixed and the temperature in the system was adjusted to be 80° C.

reactant | toluene diisocyanate | 1 mol, 174 g | CC=1C(N=C=O)=CC(N=C=O)=CC1 | C9H6N2O2
reactant | tin(II) octanoate | C(CCCCCCC)(=O)[O-].[Sn+2].C(CCCCCCC)(=O)[O-]
reactant | dibutylhydroxytoluene | C(CCC)C1=C(C(=C(C=C1)C)O)CCCC | C15H24O
catalyst | zinc(II) octanoate | C(CCCCCCC)(=O)[O-].[Zn+2].C(CCCCCCC)(=O)[O-]
solvent | normal-butyl acetate | C(C)(=O)OCCCC | C6H12O2
product | Urethane Acrylate | C(C=C)(=O)O.NC(=O)OCC | InChI=1S/C3H7NO2.C3H4O2/c1-2-6-3(4)5;1-2-3(4)5/h2H2,1H3,(H2,4,5);2H,1H2,(H,4,5)
